US07696223B2
a) 3,7-Dicyano-2-(4-fluoro-phenyl)-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
Prepared in analogy to that of Example 105(a) from 7-bromo-3-cyano-2-(4-fluoro-phenyl)-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester and CuCN. The title compound, ESI MS (m/z): 427 (M+H)+.

reactant | 7-bromo-3-cyano-2-(4-fluoro-phenyl)-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)Br)N(C(=C2C#N)C2=CC=C(C=C2)F)C2=CC=CC=C2)O | C23H15BrFN3O3
reactant | CuCN | C(#N)[Cu]
product | 3,7-Dicyano-2-(4-fluoro-phenyl)-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)C#N)N(C(=C2C#N)C2=CC=C(C=C2)F)C2=CC=CC=C2)O | C24H15FN4O3
